US08304419B2
Step C: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxamide
HATU (0.061 g, 0.161 mmol) was added as a solid to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol), 2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxylic acid (0.038 g, 0.161 mmol) and DIPEA (0.028 mL, 0.161 mmol) in DMF (1 mL). After 2 hours the reaction mixture was poured into EtOAc and water and the organic layer separated. The organic layer was dried over MgSO4, filtered and the solvent evaporated. The residue was dissolved in MeOH and purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.032 g, 38%) as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 10.76 (br. s., 1H), 8.36 (t, 1H), 7.64 (t, 1H), 7.42-7.52 (m, 2H), 7.39-7.42 (m, 2H), 7.20 (dd, 1H), 7.00 (dd, 1H), 6.77 (d, 1H), 4.70 (d, 2H), 4.38-4.43 (m, 2H), 3.23-3.28 (m, 2H). LCMS: m/z=528.0 (M+1).

reactant | HATU | 0.161 mmol, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxylic acid | 0.161 mmol, 0.038 g | S1CCOC=2C1=C1C=C(NC1=CC2)C(=O)O | C11H9NO3S
reactant | DIPEA | 0.161 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxamide | 0.032 g, 38% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C3C(=C2C1)SCCO3)F)OC3=CC(=CC(=C3)C#N)Cl | C25H16Cl2FN3O3S
